* Z:\home\facu\TCII\TareasSemanales\Tareas-Semanales-TC2\TS3\ack_moss_bicuad.asc
R1 N001 vi {R1}
R2 N002 N001 {R2}
R3 vo N001 {R3}
R4 N005 N002 {R3}
R5 N004 N003 {R4}
R6 vo N004 {R4}
C1 N003 N005 {C0}
C2 N002 N001 {C0}
XU1 N001 0 N002 opamp Aol=100K GBW=10Meg
XU2 0 N005 vo opamp Aol=100K GBW=10Meg
XU3 N004 0 N003 opamp Aol=100K GBW=10Meg
V1 vi 0 AC 1 0
.inc opamp.sub
.ac dec 1000 {f0/50} {f0*50}
* .param R3 {mc(R3_n, tol_R3)}
* Configuración de la simulación
* Parámetros generales
* .param R2 {mc(R2_n, tol_R2)}
* .param R1 {mc(R1_n, tol_R1)}
* .param R4 {mc(R4_n, tol_R4)}
* .param C0={mc(C0_n, tol_C0)}
* .param tol_R1=0.1 tol_R2=0.1 tol_R3=0.1 tol_R4= 0.1
.param tol_C0=0.1
.param R4_n=1 R3_n=1 R2_n=1.414 R1_n=1
.param C0_n=1
* .step param run 1 100 1
.param w0=1/R3/C0 f0=w0/2/pi oY=1 oW=1
.param R1=R1_n/oY R2=R2_n/oY R3=R3_n/oY R4=R4_n/oY
* .param R2={mc(R2_n, 0.1)}
.param C0=C0_n*oY/oW
.backanno
.end
