* Z:\home\facu\TCII\TareasSemanales\Tareas-Semanales-TC2\TS4\ack_moss_bicuad.asc
R1 N001 vi {R1}
R2 N002 N001 {R2}
R3 vo N001 {R3}
R4 N005 N002 {R3}
R5 N004 N003 {R4}
R6 vo N004 {R4}
C1 N003 N005 {C0}
C2 N002 N001 {C0}
XU1 N001 0 N002 opamp Aol=100K GBW=10Meg
XU2 0 N005 vo opamp Aol=100K GBW=10Meg
XU3 N004 0 N003 opamp Aol=100K GBW=10Meg
V1 vi 0 AC 1 0
.inc opamp.sub
.ac dec 1000 {f0/500} {f0*500}
* Configuración de la simulación
* Parámetros generales
.param R4_n=1 R3_n=1 R2_n=0.707 R1_n=1 C0_n=1
.param w0=1 f0=w0/2/pi
.param R4=R4_n R3=R3_n R2=R2_n R1=R1_n C0=C0_n/oh_w_2
.param oh_w_2=1.40185
.backanno
.end
